US08114865B2
Preparation of 2-nitro-4-piperidin-1-ylmethyl-benzoic acid methyl ester
To a solution of 4-hydroxymethyl-2-nitro-benzoic acid methyl ester (2.0 g, 9.47 mmol) in dry dichloromethane (80 mL) under argon, at room temperature, triethylamine (1.6 mL, 10.9 mmol, 1.15 eq.) and then p-toluenesulfonyl chloride (2.08 g, 10.9 mmol, 1.15 eq.) were added. The reaction mixture was stirred at room temperature for 1 h, then piperidine (1.6 mL, 18.94 mmol, 2 eq.) was added and the mixture stirred for additional 24 hours. The solvent was evaporated and the residue purified by flash chromatography on silica gel, using dichloromethane/ethanol 95:5 as eluant, affording 1.2 g of the title compound.

reactant | 4-hydroxymethyl-2-nitro-benzoic acid methyl ester | 9.47 mmol, 2.0 g | COC(C1=C(C=C(C=C1)CO)[N+](=O)[O-])=O | C9H9NO5
reactant | triethylamine | 10.9 mmol, 1.6 mL, 1.15 eq. | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 10.9 mmol, 2.08 g, 1.15 eq. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | piperidine | 18.94 mmol, 1.6 mL, 2 eq. | N1CCCCC1 | C5H11N
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-nitro-4-piperidin-1-ylmethyl-benzoic acid methyl ester | 1.2 g | COC(C1=C(C=C(C=C1)CN1CCCCC1)[N+](=O)[O-])=O | C14H18N2O4
